US07253196B2
2-(Bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-(tert-butyldimethylsilyloxy)ethyl)thiazol-4(5H)-one
The title compound was prepared according to the procedure described in the preparation of tert-butyl 4-((2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)methyl)piperidine-1-carboxylate by using 2-(bicyclo[2.2.1]heptan-2-ylamino)-5-(2-(tert-butyldimethylsilyloxy)ethyl)thiazol-4(5H)-one (630 mg, 1.71 mmol), lithium diisopropylamide (Aldrich, 2.0 M in heptane/THF/ethylbenzene, 4.27 mL, 8.55 mmol), and (2-bromoethoxy)(tert-butyl)dimethylsilane (Aldrich, 2.46 g, 10.25 mmol). The title compound was obtained as a sticky orange solid (771 mg). MS (ESI, pos. ion) m/z: 413 (M-TBDMS+2H).

reactant | tert-butyl 4-((2-((2S)-bicyclo[2.2.1]heptan-2-ylamino)-5-methyl-4-oxo-4,5-dihydrothiazol-5-yl)methyl)piperidine-1-carboxylate | C12[C@H](CC(CC1)C2)NC=2SC(C(N2)=O)(C)CC2CCN(CC2)C(=O)OC(C)(C)C | C22H35N3O3S
reactant | 2-(bicyclo[2.2.1]heptan-2-ylamino)-5-(2-(tert-butyldimethylsilyloxy)ethyl)thiazol-4(5H)-one | 1.71 mmol, 630 mg | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)CCO[Si](C)(C)C(C)(C)C | C18H32N2O2SSi
reactant | lithium diisopropylamide | 8.55 mmol, 2.0 M, 4.27 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 10.25 mmol, 2.46 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 2-(Bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-(tert-butyldimethylsilyloxy)ethyl)thiazol-4(5H)-one | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)(CCO[Si](C)(C)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C26H50N2O3SSi2
